US07846959B2
Methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate (0.74 g, 2.47 mmol) was dissolved in acetic acid (9 mL) at 45° C. and tin (II) chloride dihydrate (2.22 g, 9.84 mmol) was added. The mixture was stirred at 75° C. for 7 h and then was concentrated in vacuo. The residue was transferred to an Erlenmeyer flask using a little ethyl acetate and diluted with ether (20 mL). The mixture was stirred while cooling in an ice-water bath and sodium hydroxide (50% solution in water) (6 mL) was added dropwise. The solid which formed was removed by filtration and was washed with hot ethyl acetate. The combined filtrate was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate as a yellow solid (0.245 g, 0.907 mmol, 37% yield). 1H NMR (400 MHz, d6-DMSO): 7.87 (dd, 1H), 7.65 (td, 1H), 7.57 (td, 1H), 7.32 (dd, 1H), 6.93 (d, 1H), 6.66 (dd, 1H), 6.44 (d, 1H), 5.49 (s, 2H), 4.69 (s, 2H), 3.57 (s, 3H); MS (EI) for C15H14N2O3: 293 (MNa+).

reactant | Methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate | 2.47 mmol, 0.74 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C15H12N2O5
reactant | tin (II) chloride dihydrate | 9.84 mmol, 2.22 g | O.O.[Sn](Cl)Cl
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate | 0.907 mmol, 0.245 g, 37% yield | NC=1C=C(C=CC1N)C(=O)C1=C(C(=O)OC)C=CC=C1 | C15H14N2O3
